### PR TITLE
Happens before unbool

### PR DESCRIPTION
**Pull request by bmmoore**
Revise the `observation_based_equivocation_evidence` class to use a RelDecision rather than a boolean predicate for the happens-before relation.

### CODE REVIEW

**Review by palmskog — APPROVED** [review]
This looks good, and can be merged, I think.

Note that we have an obvious candidate class for further unbooling, namely the following one in VLSM/PreceedsEquivocation.v:
```coq
Class message_equivocation_evidence
  (message validator : Type)
  `{EqDecision message}
  `{EqDecision validator}
  :=
  { sender : message -> validator
  ; message_preceeds_fn (m1 m2 : message) : bool
  ; equivocating_with
      (msg1 msg2 : message)  : bool
      :=
      if decide (msg1 = msg2)
      then false
      else if decide (sender msg1 = sender msg2)
        then
          negb (message_preceeds_fn msg1 msg2)
          && negb (message_preceeds_fn msg2 msg1)
        else false
  ; equivocating_in_set
      (msg : message)
      (msgs : set message)
      :=
      existsb (equivocating_with msg) msgs
  }.
```
Specifically, we should make `message_preceeds_fn` into a regular `Prop` relation with a `RelDecision` instance.

File: CBC/FullNode/Validator/Equivocation.v [hunk 1]
```diff
@@ -57,6 +57,11 @@ Definition validator_message_preceeds
   :=
   validator_message_preceeds_fn m1 m2 = true.
 
+Definition validator_message_preceeds_dec: RelDecision validator_message_preceeds.
+  refine (fun m1 m2 => if validator_message_preceeds_fn m1 m2 as b return Decision (b = true)
+                       then left _ else right _);congruence.
+Defined.
```
Comment (palmskog) [inline CBC/FullNode/Validator/Equivocation.v:63]:
```suggestion
Definition validator_message_preceeds_dec: RelDecision validator_message_preceeds.
Proof.
  refine (fun m1 m2 => if validator_message_preceeds_fn m1 m2 as b return Decision (b = true)
                       then left _ else right _);congruence.
Defined.
```
To make documentation generation look good, I suggest we use `Proof` consistently for any definition/lemma with a body defined by tactics. This allows a documentation viewer to reduce cluttering by not reading the tactics.

File: VLSM/ObservableEquivocation.v [hunk 2]
```diff
@@ -19,70 +20,95 @@ through third parties.
...
+  P <-> Q -> Decision P -> Decision Q.
+Proof. firstorder. Qed.
+
+Lemma ex_out (A : Type) (P : Prop) (Q : A -> Prop):
+  (exists x, P /\ Q x) <-> (P /\ exists x, Q x).
+Proof. firstorder. Qed.
+
+Instance equivocation_evidence_dec {state validator event:Type}
+      `{Hevidence: observation_based_equivocation_evidence state validator event}:
+      RelDecision equivocation_evidence.
```
Comment (palmskog) [inline VLSM/ObservableEquivocation.v:55]:
```suggestion
Instance equivocation_evidence_dec `{Hevidence: observation_based_equivocation_evidence state validator event}:
      RelDecision equivocation_evidence.
```
Since we are using `Global Generalizable All Variables` (Lib/Classes.v), there is no need to specify "parameter types" explicitly for type classes when you use the backtick.

Comment (bmmoore) [reply VLSM/ObservableEquivocation.v:55]: I think it's best for a type signature to be clear about which instance you want. Also, I have no idea what types it would pick with those parameters or why, `RelDecision equivocation_evidence` certainly doesn't explicitly say that we're using `state` or `validator` or `event`.

Comment (bmmoore) [reply VLSM/ObservableEquivocation.v:55]: Oh, I thought you were suggesting `{state validator event:Type} {Hevidence:observation_based_equivocation_evidence}`. Using generalization as you actually suggested is good.

Comment (bmmoore) [reply VLSM/ObservableEquivocation.v]: Actually, it seems the build fails and I don't know why.
